US07745641B2
In a similar manner to Step 2 of Example 16, 3-methoxymethoxy-N-(1-methyl-1-phenylethyl)benzamide (8.07 g, 27.0 mmol) was dissolved in THF (320 mL), and the solution was treated with TMEDA (13.0 mL, 85.4 mmol), sec-butyllithium-hexane solution (0.99 mol/L, 87.1 mL, 86.3 mmol) and DMF (4.60 mL, 59.3 mmol), followed by purification by slurry using hexane to obtain 4-methoxymethoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (8.50 g, yield 96%).

reactant | 3-methoxymethoxy-N-(1-methyl-1-phenylethyl)benzamide | 27.0 mmol, 8.07 g | COCOC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1 | C18H21NO3
reactant | TMEDA | 85.4 mmol, 13.0 mL | CN(C)CCN(C)C | C6H16N2
reactant | sec-butyllithium hexane | 86.3 mmol, 0.99 mol/L, 87.1 mL | C(C)(CC)[Li].CCCCCC
reactant | DMF | 59.3 mmol, 4.60 mL | CN(C)C=O | C3H7NO
solvent | THF | 320 mL | C1CCOC1 | C4H8O
product | 4-methoxymethoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 8.50 g, yield 96% | COCOC1=C2C(N(C(C2=CC=C1)=O)C(C)(C1=CC=CC=C1)C)O | C19H21NO4
